* HCPL-3120 SPICE Macromodel
* (also applies to HCPL-J312)
* Rev. A
* 09/07
* ZFC
*
* This is the behavioural model for the above-mentioned part number.
* It is valid for functional simulation over the range specified below.
* (over recommended operating conditions as specified in the datasheet)
*
* Macromodels provided by Avago Technologies are not warranted
* as fully representing all of the specifications and operating
* characteristics of the product.
*
* Macromodels are useful for evaluating product performance but they
* cannot model exact device performance under all conditions, nor are
* they intended to replace breadboarding for final verification.
*
* Copyright 2007 Avago Technologies Limited. All Rights Reserved
********************************************************************************
*
*               pin1     to    pin8
*                 |             |
.subckt HCPL_3120 1 2 3 4 5 6 7 8
q2icc 163 84 8  pnpmod
q1icc 84 84 8  pnpmod
xled 5 10 3 2 led
xlimitl 5 10 50 limitl
ehdrive 42 7  40 5 1
eldrive 51 5  50 5 -1
xhlimit 5 10 40 limit
vuvlo 20 5 DC 12
vccinside 22 5 DC 30
dmosl 5 7 dmod
ddrive3 47 46 dmod
ddrive2 49 47 dmod
ddrive1 7 49 dmod
q4icc 122 124 5  npnmod
q3icc 84 122 124  npnmod
qdrive3 8 46 47  NPNMOD
qdrive2 8 47 49  NPNMOD
qdrive1 8 49 48  NPNMOD
xuvlo 5 22 8 21 23 comparator
muvlo 10 24 5 5 nmosswitch L=1e-6 W=100e-6
mdrive 7 52 5 5 nmosmod L=1e-6 W=10e-3
cuvlo 24 5 20e-12
chigh 8 7 1e-12
clgate 52 5 1e-12
clow 7 5 1e-12
chgate 46 7 300e-12
rshort67  6 7  0.0001
ruvlo2 23 21 40e3
r2icc 124 5 600
ruvlo3 23 24 1e3
r1icc 163 122 1e3
rhgate 42 46 1e3
rlgate 51 52 1e3
ruvlo 21 20 1e3
rehdrive 48 7 1.4

.MODEL nmosswitch nmos (vto=+0.7)
.MODEL nmosmod nmos (vto=+0.5   RS=0.9  LAMBDA=0)
.MODEL npnmod  npn bf=16
.MODEL pnpmod  pnp bf=100
.MODEL dmod D IS=2.22P CJO=1P VJ=.376 M=.139 N=1.07
.ends HCPL_3120

.subckt led 1 3 4 5
gband 1 3  9 1 1
fphoto 1 9  vsense  1
egain 7 4  6 4 1
cband 3 1 140e-12
ithre 3 1 DC 500e-6
vsense 8 4 DC 0
dled 6 4 lednor
doptic 7 8 lednorc
rband 3 1 1e3 TC1=2e-3
rthermo 9 1 1 TC1=-1.5e-3
rled 5 6 1
.MODEL LEDNOR D IS=5E-16 N=2 XTI=3 EG=2.1 BV=5 IBV=10u
+  CJO=60p VJ=.75 M=.3333 FC=.5 TT=20n
.MODEL LEDNORC D IS=5E-16 N=2 XTI=3 EG=2.1 BV=5 IBV=10u
+  VJ=.75 M=.3333 FC=.5
.ends led

.subckt limitl 1 2 3
elimit 4 1  2 7 10
vnegativ 6 1 DC -12
vthreshold 7 1 DC 2
vpositive 5 1 DC  12
dnega 6 3 dmod
dposi 3 5 dmod
r2 4 3 1e3
r1 2 7 10e6
.MODEL nmosswitch nmos (vto=+0.7)
.MODEL nmosmod nmos (vto=+0.5   RS=0.9  LAMBDA=0)
.MODEL npnmod  npn bf=16
.MODEL pnpmod  pnp bf=100
.MODEL dmod D IS=2.22P CJO=1P VJ=.376 M=.139 N=1.07
.ends limitl

.subckt limit 1 2 3
elimit 4 1  2 7 10
vnegativ 6 1 DC -10
vthreshold 7 1 DC 2
vpositive 5 1 DC 10
dnega 6 3 dmod
dposi 3 5 dmod
r2 4 3 1e3
r1 2 7 1e6
.MODEL nmosswitch nmos (vto=+0.7)
.MODEL nmosmod nmos (vto=+0.5   RS=0.9  LAMBDA=0)
.MODEL npnmod  npn bf=16
.MODEL pnpmod  pnp bf=100
.MODEL dmod D IS=2.22P CJO=1P VJ=.376 M=.139 N=1.07
.ends limit

.subckt comparator 1 2 3 4 5
mcopa 5 6 1 1 nmosswitch L=1e-6 W=100e-6
egain 6 1  3 4 1e3
ro 5 2 10e3
rgate 6 1 10e3
r1n 3 4 1e6
.MODEL nmosswitch nmos (vto=+0.7)
.MODEL nmosmod nmos (vto=+0.5   RS=0.9  LAMBDA=0)
.MODEL npnmod  npn bf=16
.MODEL pnpmod  pnp bf=100
.MODEL dmod D IS=2.22P CJO=1P VJ=.376 M=.139 N=1.07
.ends comparator
